US07683185B2
6-(Naphthalen-2-ylsulfanyl)-hexa-2,4-dienoic acid methyl ester (13b).
To a solution of 6-bromo-hexa-2,4-dienoic acid methyl ester (1.57 g, 7.66 mmol) and 2-thionaphthol (1.35 g, 8.42 mmol) in diethyl ether (40 mL) was added dropwise triethylamine (1.40 mL, 10.0 mmol) under an atmosphere of argon. The mixture was stirred for one hour 20° C. and filtered. The filtrate was washed saturated aqueous sodium hydrogen carbonate (25 mL), demineralised water (25 mL) and brine (25 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give a yellow oil that was purified by column chromatography (9:1 to 8:2 40-60° C. petroleum ether:diethyl ether). Recrystallisation from diethyl ether/petroleum ether afforded the title compound (1.9 g, 88%) as a white solid, mp 73-75° C.

reactant | 6-bromo-hexa-2,4-dienoic acid methyl ester | 7.66 mmol, 1.57 g | COC(C=CC=CCBr)=O | C7H9BrO2
reactant | 2-thionaphthol | 8.42 mmol, 1.35 g | C1=CC=C2C=C(C=CC2=C1)S | C10H8S
reactant | triethylamine | 10.0 mmol, 1.40 mL | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | 6-(Naphthalen-2-ylsulfanyl)-hexa-2,4-dienoic acid methyl ester | 1.9 g, 88% | COC(C=CC=CCSC1=CC2=CC=CC=C2C=C1)=O | C17H16O2S
